US07144913B2
Step 1: 3-(4-Chlorobenzyl)-1H-indole
To a vigorously stirred solution of 30 mL of 3M MeMgBr in ether was added dropwise a solution of 10 g of indole in 100 mL of ether. After addition was finished, the mixture was heated to reflux for 30 minutes and treated with 22 g of p-chlorobenzyl bromide. The reaction mixture was refluxed for 3 hours, quenched with 50 mL of saturated aqueous solution of NH4Cl, and extracted with 200 mL of ether. The ether layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel flash chromatography eluted with toluene to give 6 g of the title compound as a beige solid.

reactant | MeMgBr | 3M, 30 mL | C[Mg+].[Br-]
reactant | indole | 10 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | p-chlorobenzyl bromide | 22 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | ether | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 3-(4-Chlorobenzyl)-1H-indole | 6 g | ClC1=CC=C(CC2=CNC3=CC=CC=C23)C=C1 | C15H12ClN
